US09290476B2
N-Methoxy-N,1-dimethyl-1H-1,2,3-triazole-5-carboxamide
A solution of 1-methyl-1H-1,2,3-triazole (12.9 g, 155 mmol) in THF (260 mL) was cooled to −45° C. Maintaining a temperature of <−35° C., nBuLi (62.1 mL, 2.5 M in hexanes, 155 mmol) was added over 10 min. The reaction mixture was stirred for 30 min with cooling to −45° C. and then treated with a sub-surface stream of CO2(g) for a period of 2 h. After flushing the −35° C. slurry with N2(g) for 5 min, thionyl chloride (11.8 mL, 163 mmol) was added. The mixture was allowed to warm to room temperature with stirring over 1.25 h. Addition of N,O-dimethylhydroxylamine hydrochloride (18.14 g, 186 mmol) and N,N-diisopropylethylamine (68.3 mL, 396 mmol) was followed by stirring for 15 h. Aqueous sodium carbonate (500 mL, 10 wt %) was then added, and the layers were mixed and separated. The aqueous layer was washed with dichloromethane (250 mL and then 125 mL), and the combined organic layers were dried over MgSO4, filtered, and concentrated. The concentrate was taken up in ethyl acetate (225 mL), treated with MgSO4, and filtered through a pad of silica gel (115 g). The silica gel pad was washed with additional ethyl acetate (800 mL). The eluent was concentrated to provide the title compound as a yellow solid.

reactant | 1-methyl-1H-1,2,3-triazole | 155 mmol, 12.9 g | CN1N=NC=C1 | C3H5N3
reactant | nBuLi | 155 mmol, 2.5 M, 62.1 mL | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
reactant | thionyl chloride | 163 mmol, 11.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,O-dimethylhydroxylamine hydrochloride | 186 mmol, 18.14 g | Cl.CNOC
reactant | N,N-diisopropylethylamine | 396 mmol, 68.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium carbonate | 500 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 260 mL | C1CCOC1 | C4H8O
product | N-Methoxy-N,1-dimethyl-1H-1,2,3-triazole-5-carboxamide | CON(C(=O)C1=CN=NN1C)C | C6H10N4O2
